US05378714
1-[6-(3,4-Methylenedioxyphenylcarbamoyloxy)hexyl]-4-(6-fluoro-1,2-benzisoxazol-3-yl) piperidine
Starting from 3-[1-(1-hydroxyhex-6-yl]-4-piperidinyl]-6-fluoro-1,2-benzisoxazole (270 mg, 0.84 mmol) and 3,4-methylenedioxyphenylisocyanate (297 mg, 1.69 mmol) using the procedure described in example 12B was prepared 210 mg (51.8%) of the title compound as an amorphous solid.

reactant | 3-[1-(1-hydroxyhex-6-yl]-4-piperidinyl]-6-fluoro-1,2-benzisoxazole | 0.84 mmol, 270 mg | OCCCCCCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | C18H25FN2O2
reactant | 3,4-methylenedioxyphenylisocyanate | 1.69 mmol, 297 mg | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
product | 1-[6-(3,4-Methylenedioxyphenylcarbamoyloxy)hexyl]-4-(6-fluoro-1,2-benzisoxazol-3-yl) piperidine | 210 mg, 51.8% | C1OC=2C=C(C=CC2O1)NC(=O)OCCCCCCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | C26H30FN3O5
